US06506773B2
1-tert-Butoxycarbonyl-1,2,3,6-tetrahydro-4-(trimethylsilyloxy)pyridine
Trimethylsilyl chloride (25 ml) and triethylamine (50 ml) were added to a stirred solution of N-Boc piperidinone (30 g) in DMF (40 ml) and the mixture was heated at 70° C. for 16 h. The solution was cooled to room temperature and diluted with hexanes (300 ml), the solution was washed with sodium bicarbonate solution (3×100 ml), dried (MgSO4) and evaporated to give a colourless oil. The product was purified on silica eluting with 10% ethyl acetate/hexanes to give the title compound as colourless oil (25 g, 62%).

reactant | Trimethylsilyl chloride | 25 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | N-Boc piperidinone | 30 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-tert-Butoxycarbonyl-1,2,3,6-tetrahydro-4-(trimethylsilyloxy)pyridine | 25 g, 62% | C(C)(C)(C)OC(=O)N1CCC(=CC1)O[Si](C)(C)C | C13H25NO3Si
